US08669234B2
(S)-1-((S)-6-(5-(6-(4-(2-((S)-7-((S)-2-(methoxycarbonylamino)-3-methylbutanoyl)-1,4-dioxa-7-azaspiro[4.4]nonan-8-yl)-1H-imidazol-5-yl)phenyl)naphthalen-2-yl)-1H-imidazol-2-yl)-5-azaspiro[2.4]heptan-5-yl)-3-methyl-1-oxobutan-2-yl-carbamic acid methyl ester
Methyl (S)-1-((S)-8-(5-(4-bromophenyl)-1H-imidazol-2-yl)-1,4-dioxa-7-azaspiro[4.4]nonan-7-yl)-3-methyl-1-oxobutan-2-ylcarbamate (200 mg, 0.39 mmol), bis(pinacolato)diboron (130 mg, 0.51 mmol), potassium acetate (116 mg, 1.18 mmol), and Pd(dppf)Cl2 (29 mg, 0.039 mmol) were all weighed out in a glass pressure vessel and anhydrous 1,4-Dioxane (2 mL) was added. The mixture was bubbled with nitrogen gas for about 5 min. The vessel was then capped and sealed and heated in an oil bath at 90° C. overnight with continuous stirring. The reaction vessel was cooled down to room temperature and methyl (S)-1-((S)-6-(5-(6-bromonaphthalen-2-yl)-1H-imidazol-2-yl)-5-azaspiro[2.4]heptan-5-yl)-3-methyl-1-oxobutan-2-ylcarbamate (215 mg, 0.41 mmol), 2M K2CO3, and Pd(PPh3)4 (46 mg, 0.04 mmol) were all added along with 2 mL of DMSO and the mixture was bubbled with nitrogen gas for 5 minutes. The vessel, again, was capped, sealed and placed in an oil bath at 100° C. for 4 hours. The resulting crude mixture was diluted with ethyl acetate and washed, respectively, with brine, 10% Na2CO3, 10% citric acid, saturated solution of NH4Cl, and brine. The organic layer was then dried over Na2SO4 and the volatiles were removed on rotovap. The residue was first purified on normal phase chromatography and then on prep HPLC. Yield=205 mg (60%). 1H-NMR: 400 MHz, (CDCl3). δ 8.18-7.97 (m, 1H), 7.83-7.6 (m, 8H), 7.82-7.22 (m, 3H), 5.47-5.34 (m, 4H), 4.33-4.26 (m, 1H), 4.08-4.03 (m, 4H), 3.94-3.89 (m, 1H), 3.78-3.69 (m, 8H), 3.22 (brs, 1H), 2.96-2.94 (m, 1H), 2.49-2.46 (m, 1H), 2.22-2.17 (m, 1H), 1.99 (brs, 1H), 1.08-1.04 (m, 2H), 0.94-0.79 (m, 12H), 0.71 (m, 4H). MS (ESI) m/z 873.79 [M+H]+.

reactant | Methyl (S)-1-((S)-8-(5-(4-bromophenyl)-1H-imidazol-2-yl)-1,4-dioxa-7-azaspiro[4.4]nonan-7-yl)-3-methyl-1-oxobutan-2-ylcarbamate | 0.39 mmol, 200 mg | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(CC2(OCCO2)C1)C([C@H](C(C)C)NC(OC)=O)=O | C22H27BrN4O5
reactant | bis(pinacolato)diboron | 0.51 mmol, 130 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.18 mmol, 116 mg | C(C)(=O)[O-].[K+]
reactant | methyl (S)-1-((S)-6-(5-(6-bromonaphthalen-2-yl)-1H-imidazol-2-yl)-5-azaspiro[2.4]heptan-5-yl)-3-methyl-1-oxobutan-2-ylcarbamate | 0.41 mmol, 215 mg | BrC=1C=C2C=CC(=CC2=CC1)C1=CN=C(N1)[C@H]1N(CC2(CC2)C1)C([C@H](C(C)C)NC(OC)=O)=O | C26H29BrN4O3
reactant | K2CO3 | 2M | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(dppf)Cl2 | 0.039 mmol, 29 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | Pd(PPh3)4 | 0.04 mmol, 46 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | 1,4-Dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (S)-1-((S)-6-(5-(6-(4-(2-((S)-7-((S)-2-(methoxycarbonylamino)-3-methylbutanoyl)-1,4-dioxa-7-azaspiro[4.4]nonan-8-yl)-1H-imidazol-5-yl)phenyl)naphthalen-2-yl)-1H-imidazol-2-yl)-5-azaspiro[2.4]heptan-5-yl)-3-methyl-1-oxobutan-2-yl-carbamic acid methyl ester | COC(N[C@H](C(=O)N1CC2(CC2)C[C@H]1C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(CC2(OCCO2)C1)C([C@H](C(C)C)NC(=O)OC)=O)C(C)C)=O | C48H56N8O8
